US08809525B2
6-(4-Fluorophenoxy)-5-phenyl-1,2,4-triazin-3-amine (35 mg, 8%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.40 g, 1.59 mmol) and 4-fluorophenol (0.36 g, 3.18 mmol) according to the general procedure of Example 3.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.59 mmol, 0.40 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 4-fluorophenol | 3.18 mmol, 0.36 g | FC1=CC=C(C=C1)O | C6H5FO
product | 6-(4-Fluorophenoxy)-5-phenyl-1,2,4-triazin-3-amine | 35 mg, 8% | FC1=CC=C(OC2=C(N=C(N=N2)N)C2=CC=CC=C2)C=C1 | C15H11FN4O
